US08242130B2
To a solution of 2-(4-acetoxy-phenyl)-1,1-dioxo-1H-1λ6-thiochromen-4-one (260 mg, 0.79 mmol) in MeOH:THF (5 mL:5 mL), K2CO3 (133 mg, 0.95 mmol) was added and stirred for 2 h at rt Then the reaction mixture was neutralized by dilute HCl and extracted by EtOAc, the combined organic layer was washed with water, brine, dried and concentrated to give a crude product, which was purified by column chromatography using 50% EtOAc in hexane, to give 134 mg (59%) of 2-(4-hydroxy-phenyl)-1,1-dioxo-1H-1λ6-thiochromen-4-one. MS (ES) m/z: 286.05 (M), 285.01 (M−1); Mp. 222-224° C.

reactant | 2-(4-acetoxy-phenyl)-1,1-dioxo-1H-1λ6-thiochromen-4-one | 0.79 mmol, 260 mg | C(C)(=O)OC1=CC=C(C=C1)C=1S(C2=CC=CC=C2C(C1)=O)(=O)=O | C17H12O5S
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | K2CO3 | 0.95 mmol, 133 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | Cl | ClH
solvent | MeOH | CO | CH4O
product | 2-(4-hydroxy-phenyl)-1,1-dioxo-1H-1λ6-thiochromen-4-one | 134 mg, 59% | OC1=CC=C(C=C1)C=1S(C2=CC=CC=C2C(C1)=O)(=O)=O | C15H10O4S
